US06573273B1
Phenyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate
A solution of 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (9.3 mg, 36 μmol) in 10 mL of dichloromethane was cooled to −5° C. and a solution of phenyl chloroformate (7 mg, 45 μmol) in 1.5 mL of dichloromethane was added, with argon bubbling to facilitate mixing. The mixture was then allowed to warm to room temp. while being vortexed for 10 min. Aminomethylpolystyrene (ca. 80 mg, 1 meq/g, 100-200 mesh, Bachem) was added to quench excess chloroformate, and the mixture was refluxed and vortexed for several hours. The mixture was chromatographed through a short plug of silica gel with 10:1 dichloromethane-methanol as eluant to isolate the product as a solid. 1H NMR (500 MHz, DMSO-d6) δ 8.28 (s, 1H), 8.06 (d, J=7.6 Hz, 1H), 7.76 (t, J=5.6 Hz, 1H), 7.63 (d, J=8.2 Hz, 1H), 7.45 (t, J=7 Hz, 1H), 7.34 (t, J=8.2 Hz, 2H), 7.27 (t, J=7.5 Hz, 1H), 7.18 (t, J=7.3 Hz, 1H), 7.00 (d, J=8.6 Hz, 2H), 6.65 (bs, 2H), 4.64 (t, J=7 Hz, 2H) 3.10 (q, J=6 Hz, 2H), 1.92 (quintet, J=7 Hz, 2H), 1.52 (quintet, J=7 Hz, 2H). MS (APCI) m/e 376.15 (M+H).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 36 μmol, 9.3 mg | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | phenyl chloroformate | 45 μmol, 7 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Phenyl N-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(OC2=CC=CC=C2)=O | C21H21N5O2
